US06225311B1
4-(4-Hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid
Alternatively, 4-(4-But-2-ynyloxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid may be prepared in 31% yield according to the procedure of Example 36 using 4-but-2-ynyloxy-benzenesulfonyl chloride as the sulfonylating agent.

reactant | 4-(4-But-2-ynyloxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1C(C(SCC1)(C)C)C(=O)O | C17H21NO5S2
reactant | 4-but-2-ynyloxy-benzenesulfonyl chloride | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | 4-(4-Hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3-carboxylic acid | OC1=CC=C(C=C1)S(=O)(=O)N1C(C(SCC1)(C)C)C(=O)O | C13H17NO5S2
